US06333330B1
2-(Azetidin-1-yl)-5-bromopyridine hydrochloride
Azetidine hydrochloride (3.0 g, 32.1 mmol) was added to a solution of sodium (0.73 g, 31.7 mmol) in ethanol (25 ml) and the solution stirred vigorously for an hour. 2,5-Dibromopyridine (5.0 g, 21.1 mmol) was then added and the reaction mixture heated at 100° C. for 10 hours in a sealed vessel, and then at 120° C. for a further 10 hours. The cooled mixture was concentrated under reduced pressure and the residue was partitioned between water and ethyl acetate. The layers were separated, the aqueous phase was extracted with ethyl acetate (3×), and the combined organic extracts washed with brine, dried (MgSO4), and evaporated under reduced pressure. The crude product was purified by medium pressure column chromatography on silica gel, using dichloromethane:pentane (66:34) as eluant to give the tile compound, (900 mg, 17%) as white crystals.

reactant | Azetidine hydrochloride | 32.1 mmol, 3.0 g | Cl.N1CCC1
reactant | sodium | 31.7 mmol, 0.73 g | [Na] | Na
reactant | 2,5-Dibromopyridine | 21.1 mmol, 5.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-(Azetidin-1-yl)-5-bromopyridine hydrochloride | Cl.N1(CCC1)C1=NC=C(C=C1)Br | InChI=1S/C8H9BrN2.ClH/c9-7-2-3-8(10-6-7)11-4-1-5-11;/h2-3,6H,1,4-5H2;1H
